US07220752B2
3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid (E1)
TiCl4 (25.2 mL, 229 mmol) was added dropwise to a solution of 3,5-dibromo-4-(3-isopropyl-4 -methoxyphenoxy)phenylacetic acid methyl ester (31.0 g, 65.6 mmol) and m-toluoyl-chloride (35.4 g, 229 mmol) in CH2Cl2 (310 mL) at 0° C. The mixture was stirred at room temperature for 3 d, cooled to 0 C, and quenched with ice (300 g). The layers were separated and the aqueous phase was extracted with EtOAc (3×100 mL). The combined organic phases were washed with NaHCO3 (aq., sat, 3×100 mL), concentrated and purified by chromatography on silica gel to give 18.5 9 (49%) of the title compound.

reactant | 3,5-dibromo-4-(3-isopropyl-4 -methoxyphenoxy)phenylacetic acid methyl ester | 65.6 mmol, 31.0 g | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)OC)C(C)C)Br)=O | C19H20Br2O4
reactant | m-toluoyl-chloride | 229 mmol, 35.4 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
solvent | CH2Cl2 | 310 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 229 mmol, 25.2 mL | Cl[Ti](Cl)(Cl)Cl
product | 3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)OCCC(=C)C)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C30H30Br2O5
